US06890947B2
Rac-2-Ethoxy-3-[1-(2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid
Starting from rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester and 4-chloromethyl-2-phenyl-oxazole, the title compound was obtained in 80% yield as a brown oil. MS: (M+H)+ 391.1.

reactant | rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=CNC2=CC1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-phenyl-oxazole | ClCC=1N=C(OC1)C1=CC=CC=C1 | C10H8ClNO
product | Rac-2-Ethoxy-3-[1-(2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid | 80% yield | C(C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1)C1=CC=CC=C1 | C23H22N2O4
